US08975252B2
A mixture of tert-butyl [2-bromo-4-methoxy-5-(3-methoxypropoxy)benzyl]cyclopropylcarbamate (200 mg), trimethylboroxin (94 μL), tris(dibenzylideneacetone)dipalladium (8.2 mg), 2-dicyclohexylphosphino-2′,4′,6′-triisopropyl-1,1′-biphenyl (X-phos) (21.5 mg) and potassium phosphate (191 mg) in dioxane (7.0 ml) was stirred under argon atmosphere at 100° C. for 23 hours. After being stand to cool, water was added to the reaction mixture and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over magnesium sulfate and concentrated in vacuo. The resulted residue was purified with a NH-silica gel column chromatography (eluting solvent: n-hexane/ethyl acetate=10/1 to 3/1) to give tert-butyl cyclopropyl[4-methoxy-5-(3-methoxypropoxy)-2-methylbenzyl]carbamate (103 mg) as a pale yellow oil.

reactant | tert-butyl [2-bromo-4-methoxy-5-(3-methoxypropoxy)benzyl]cyclopropylcarbamate | 200 mg | BrC1=C(CN(C(OC(C)(C)C)=O)C2CC2)C=C(C(=C1)OC)OCCCOC | C20H30BrNO5
reactant | trimethylboroxin | 94 μL | CB1OB(OB(O1)C)C | C3H9B3O3
reactant | 2-dicyclohexylphosphino-2′,4′,6′-triisopropyl-1,1′-biphenyl | 21.5 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
reactant | potassium phosphate | 191 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 7.0 ml | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium | 8.2 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | water | O | H2O
product | tert-butyl cyclopropyl[4-methoxy-5-(3-methoxypropoxy)-2-methylbenzyl]carbamate | 103 mg | C1(CC1)N(C(OC(C)(C)C)=O)CC1=C(C=C(C(=C1)OCCCOC)OC)C | C21H33NO5
